US04367238
Ozone gas was introduced into a solution of 2-(1-propenyl)-6-(o-tolyloxy)phenol (13.7 g) in a mixture of ethyl acetate (300 ml) and acetic acid (50 ml) at 0°-3° C. with stirring for an hour. The reaction mixture was washed with water, aqueous sodium bicarbonate and saline successively, dried over magnesium sulfate and when evaporated. The oily residue (12.9 g) was dissolved in diethyl ether, and the solution was washed with water, dried over magnesium sulfate and evaporated. The oily residue (11.7 g) was pulverized and recrystallized from methanol to give 2-hydroxy-3-(o-tolyloxy)benzaldehyde (4.8 g). mp 56°-58° C.

reactant | Ozone | O=[O+][O-] | O3
reactant | 2-(1-propenyl)-6-(o-tolyloxy)phenol | 13.7 g | C(=CC)C1=C(C(=CC=C1)OC1=C(C=CC=C1)C)O | C16H16O2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-hydroxy-3-(o-tolyloxy)benzaldehyde | 4.8 g | OC1=C(C=O)C=CC=C1OC1=C(C=CC=C1)C | C14H12O3
